Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bradycardia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ hx of CAD, MI s/p DES ___, HTN/HLD, DMII, who presents
with asymptomatic bradycardia. 

The pt was in his usual state of health when he was noted to 
have
asymptomatic bradycardia at an acupuncture appointment. He
presented to ___ where an EKG reportedly demonstrated
bradycardia to HR ___ with PVCs. BP at the time was 180/62. The
pt was then transferred to ___ for further management.

In the ED, initial vitals were T 97.7, HR 36, BP 157/72, RR 16,
O2 96% on RA.

Labs were notable for elevated proBNP to 1046 and negative
troponin,  otherwise were unremarkable.

An EKG showed sinus rhythm w/ frequent PVCs (ventricular HR 58),
nml axis, nml intervals, low limb lead voltage, non specific T
wave flattening/inversions in inf leads.

The pt's bradycardia improved to ___ without intervention. He 
was
admitted to the cardiology service for close monitoring. On
arrival to the floor, the pt endorsed the above history, adding
that he "felt like a million bucks" and had no complaints.
Specifically he denied fevers, chills, CP, palpitations, SOB,
diarrhea, constipation, or changes in weight. Further denied any
episodes of syncope, presyncope, or falls. He noted that he is
careful w/ his mediations and typically organizes his pills for
daily use. At baseline, he is relatively active for his age, and
is able to do outdoor chores such as moving the lawn without
difficulties.

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal
limits.

 
Past Medical History:
- CAD complicated by MI s/p stenting in ___ ___, details
of coronary anatomy unknown) 
- HTN
- HLD
- DMII, non insulin dependent
- Anemia
- GERD
 
Social History:
___
Family History:
Reviewed and non contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 97.7, BP 152/69, HR 47, RR 20, O2 96% on RA
GENERAL: Alert and interactive, NAD
NECK: No cervical lymphadenopathy, no JVD
CARDIAC: RRR, no m/r/g
LUNGS: CTAB, no wheezes or crackles
ABDOMEN: Soft, non distended, non tender
EXTREMITIES: No peripheral edema
SKIN: Warm, no rashes or bruising
NEUROLOGIC: AOx3, CNII-XII grossly intact, moving extremities,
gait deferred

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 737)
    Temp: 97.6 (Tm 97.7), BP: 139/76 (120-144/57-84), HR: 69
(37-77), RR: 19 (___), O2 sat: 97% (94-97), O2 delivery: Ra,
Wt: 198.19 lb/89.9 kg   
GENERAL: Alert and interactive, NAD
NECK: No cervical lymphadenopathy, no JVD
CARDIAC: RRR, no m/r/g
LUNGS: CTAB, no wheezes or crackles
ABDOMEN: Soft, non distended, non tender
EXTREMITIES: No peripheral edema
SKIN: Warm, no rashes or bruising
NEUROLOGIC: AAOx3, no focal deficits
 
Pertinent Results:
ADMISSION LABS:
================
___ 07:12PM BLOOD WBC-7.8 RBC-4.70 Hgb-13.5* Hct-43.0 
MCV-92 MCH-28.7 MCHC-31.4* RDW-13.6 RDWSD-45.7 Plt ___
___ 07:12PM BLOOD Neuts-53.0 ___ Monos-9.1 Eos-4.3 
Baso-0.5 Im ___ AbsNeut-4.11 AbsLymp-2.54 AbsMono-0.71 
AbsEos-0.33 AbsBaso-0.04
___ 07:12PM BLOOD ___ PTT-29.7 ___
___ 07:12PM BLOOD Plt ___
___ 07:12PM BLOOD Glucose-96 UreaN-17 Creat-0.8 Na-135 
K-4.7 Cl-101 HCO3-20* AnGap-14
___ 07:12PM BLOOD ALT-12 AST-17 AlkPhos-60 TotBili-0.4
___ 07:12PM BLOOD Lipase-21
___ 07:12PM BLOOD proBNP-1046*
___ 07:12PM BLOOD cTropnT-<0.01
___ 07:12PM BLOOD Albumin-4.4 Calcium-9.3 Phos-3.7 Mg-1.7
___ 07:12PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:24PM BLOOD Lactate-1.3

INTERVAL LABS:
===============
___ 06:24AM BLOOD TSH-3.1

MICROBIOLOGY:
=============
  URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

KEY IMAGING:
============
___:
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is normal left ventricular wall thickness 
with a borderline increased/dilated cavity. There is normal 
regional and global left ventricular systolic function. There is 
beat-to-beat variability in the left ventricular contractility 
due to the irregular rhythm. Quantitative biplane left 
ventricular ejection fraction is 56 % (normal 54-73%). Left 
ventricular cardiac index is high (>4.0 L/min/m2). There is no 
resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. There is a normal descending aorta 
diameter. The aortic valve leaflets (?#) are mildly thickened. 
There is minimal aortic valve stenosis (elevated velocities 
likely related to high cardiac output). There is mild [1+] 
aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear structurally normal. 
There is physiologic tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is a trivial 
pericardial effusion. There is a prominent anterior fat pad.
IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/ global systolic 
function. Mild aortic regurgitation.

DISCHARGE LABS:
================
___ 06:45AM BLOOD WBC-7.2 RBC-4.96 Hgb-14.5 Hct-45.6 MCV-92 
MCH-29.2 MCHC-31.8* RDW-13.9 RDWSD-46.5* Plt ___
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-109* UreaN-21* Creat-0.9 Na-136 
K-4.9 Cl-97 HCO3-24 AnGap-15
___ 06:45AM BLOOD Calcium-9.6 Phos-3.6 Mg-1.___ w/ hx of CAD, MI s/p DES ___, HTN/HLD, DMII, who presents 
with asymptomatic bradycardia. 

TRANSITIONAL ISSUES:
=====================
[ ] Will need 14 day Zio Patch set up in setting of bradycardia 
and to assess PVC burden. Should be placed by cardiologist, Dr. 
___ in ___ at next visit
[ ] Discharged on reduced Metoprolol 12.5mg po daily. Consider 
increasing as tolerable by HRs

ACUTE/ACTIVE ISSUES:
====================
#Bradycardia
#Ventricular Bigeminy
Pt presenting w/ HR in ___, asymptomatic, mentating at baseline, 
and with stable BPs. Had one episode of lightheadedness on 
ambulation on original presentation to ___ though 
otherwise asymptomatic. Very low suspicion for ACS. Further
review of EKG at ___, ___, and telemetry appears more 
consistent with ventricular bigeminy and PVCs with HRs in ___. 
Patient remained hemodynamically stable. TSH normal. TTE ___ 
with EF 56%, mild AS. Decreased Metop succinate from 25mg to 
12.5mg po daily. Will need Zio Patch placed as OP.

CHRONIC/STABLE ISSUES:
======================
# CAD
Continue home ASA, statin. Reduced dose beta-blocker as above

# HTN
Continued home lisinopril

# DMII
ISS while in-house. Resume Metformin as outpatinet

# HLD
Continued home statin

# GERD
Continued home PPI

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. coenzyme Q10 200 mg oral DAILY 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Lisinopril 20 mg PO DAILY 
7. Magnesium Oxide 400 mg PO DAILY 
8. MetFORMIN (Glucophage) 500 mg PO BID 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Pantoprazole 40 mg PO Q24H 
12. Pravastatin 20 mg PO QPM 
13. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 

 
Discharge Medications:
1.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Clopidogrel 75 mg PO DAILY  
4.  coenzyme Q10 200 mg oral DAILY  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Lisinopril 20 mg PO DAILY  
8.  Magnesium Oxide 400 mg PO DAILY  
9.  MetFORMIN (Glucophage) 500 mg PO BID  
10.  Multivitamins 1 TAB PO DAILY  
11.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
12.  Pantoprazole 40 mg PO Q24H  
13.  Pravastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bradycardia
Ventricular Bigeminy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You came to the hospital due to concern for slow heart rate 
(bradycardia)

What did you receive in the hospital?
- We performed an EKG to assess your heart rate and rhythm. We 
believe you were actually having extra heart beats that were not 
picked up on your routine pulses. Your heart rate was normal 
during your hospitalization
- We performed an ultrasound of your heart, which was normal.
- We decreased the dose of your Metoprolol which will help with 
your heart rates. You will follow-up with your cardiologist to 
discuss any medication adjustments and to have a heart monitor 
placed.

What should you do once you leave the hospital?
- Make sure to weigh yourself every day. If your weight goes up 
by 3 lb, please call your doctor.
- Please take your medications as prescribed and go to your 
future appointments which are listed below.

We wish you all the best!
- Your ___ Care Team

 
Followup Instructions:
___